US06720320B2
Ethyl 4-benzyloxyindol-2-carboxylate (10 g) was dissolved in a mixed solvent (200 ml) of dioxane-water (1:1) and potassium hydroxide (3.8 g) was added. The mixture was refluxed under heating for 2 hr. The reaction mixture was poured into ice water, made acidic with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 4-benzyloxyindol-2-carboxylic acid as pale-yellow crystals (9.0 g). The crystals were dissolved in dimethylformamide (100 ml) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSC, 7.6 g), 1-hydroxybenzotriazole hydrochloride (HOBt, 6.9 g), triethylamine (7.0 ml) and acetohydrazine (2.6 g) were added thereto. The mixture was stirred at room temperature for 6 hr. The reaction mixture was poured into ice water and the precipitated crystals were collected by filtration to give the title compound (10 g).

reactant | Ethyl 4-benzyloxyindol-2-carboxylate | 10 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1)C(=O)OCC | C18H17NO3
reactant | potassium hydroxide | 3.8 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane water | 200 ml | O1CCOCC1.O
product | 4-benzyloxyindol-2-carboxylic acid | 9.0 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1)C(=O)O | C16H13NO3
